US04950674
[4-[3-[4-[Bis(4-fluorophenyl)hydroxymethyl]-1-piperidinyl]propoxy]phenyl]carbamic acid ethyl ester
Following the procedure of Example 1, [α,α-bis(p-fluorophenyl)]-4-piperidinemethanol and [4-(3-bromopropoxy)phenyl]carbamic acid ethyl ester are reacted to give the title compound.

reactant | [α,α-bis(p-fluorophenyl)]-4-piperidinemethanol | FC1=CC=C(C=C1)C(O)(C1CCNCC1)C1=CC=C(C=C1)F | C18H19F2NO
reactant | [4-(3-bromopropoxy)phenyl]carbamic acid ethyl ester | C(C)OC(NC1=CC=C(C=C1)OCCCBr)=O | C12H16BrNO3
product | [4-[3-[4-[Bis(4-fluorophenyl)hydroxymethyl]-1-piperidinyl]propoxy]phenyl]carbamic acid ethyl ester | C(C)OC(NC1=CC=C(C=C1)OCCCN1CCC(CC1)C(O)(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F)=O | C30H34F2N2O4
